US06716862B2
5-(2′,4′-Dichlorobiphen-4-ylmethyl)-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione
Prepared analogously to Example 9 from from 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione and 4′-bromomethyl-2,4-dichlorobiphenyl in N,N-dimethylformamide. Column chromatography provided an off-white solid. 1H NMR: δ 8.01 (v br s, 1H), 7.93 (dm, J=9.0 Hz, 2H), 7.47 (d, J=2.0 Hz, 1H), 7.22-7.35 (m, 6H), 7.07 (dm, J=9.0 Hz, 2H), 3.98 (a of ab, J=13.7 Hz, 1H), 3.93 (s, 3H), 3.40 (b of ab, J=13.7 Hz, 1H). MS (m/e): 519.9 (M−H)−. Anal: Calc for C23H17Cl2NO5S2.0.75 C4H10O: 54.03% C, 4.27% H, 2.42% N; Found: 53.63% C, 4.33% H, 2.23% N. MP: 104-107° C.

reactant | 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | COC1=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O | C10H9NO5S2
reactant | 4′-bromomethyl-2,4-dichlorobiphenyl | BrCC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)Cl | C13H9BrCl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(2′,4′-Dichlorobiphen-4-ylmethyl)-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | ClC1=C(C2=CC=C(C=C2)CC2(C(NC(S2)=O)=O)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC(=C1)Cl | C23H17Cl2NO5S2
